US05892040
39.24 g (0.4 mol) of propiolic acid ethyl ester were added to a solution of 29.63 g (0.4 mol) of N-amino-N-methylformamide in 80 ml of dioxane and left standing for 3 weeks at room temperature. The yellow solution was evaporated at 40° C./30 torr and the residue filtered over a silical gel column (350 g) with a mixture of dichloromethane/n-hexane 49:1 in fractions of 250 ml each. Fractions 2 to 10 were united and evaporated at 40° C./30 torr, yielding 63.9 g (93%) of 3-(formylmethylhydrazono)-propionic acid ethyl ester as a yellow fluid (IR: 3462, 2984, 1735, 1688, 1629, 1183, 1045 cm-1).

reactant | propiolic acid ethyl ester | 0.4 mol, 39.24 g | C(C)OC(C#C)=O | C5H6O2
reactant | N-amino-N-methylformamide | 0.4 mol, 29.63 g | NN(C=O)C | C2H6N2O
reactant | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 3-(formylmethylhydrazono)-propionic acid ethyl ester | 63.9 g, 93% | C(C)OC(CC=NNCC=O)=O | C7H12N2O3
